US06258812B1
1-(4-Chloroanilino) 4-[(2-methyl-4-pyridyl)methyl]phthalazine
A mixture of 910 mg (6.36 mmol) phosphorus pentoxide, 876 mg (6.36 mmol) triethylamine hydrochloride, and 812 mg (6.36 mmol) 4-chioroaniline is heated at 200° C. until a homogeneous melt has formed. To the melt, 400 g (1.59 mmol) 4-[(2-methyl-pyridin-4-yl)-methyl]-1 (2H)-phthalazinone is added and the reaction mixture stirred for a further 16 h at 200° C. The cooled reaction mixture is distributed with thorough stirring and use of an ultrasonic bath between a dichloromethane/methanol mixture (about 20:1) and saturated aqueous sodium carbonate solution. The organic phase washed with water and brine is dried over anhydrous sodium sulfate, evaporated under vacuum, and the residue purified by means of flash chromatography on silica gel with particle size 0.04-0.06 mm, using an acetate/methanol mixture (19:1). Title compound is obtained after evaporation of the product-containing fractions under vacuum and crystallization of the residue from acetonitrile; m.p. 158-159° C.; ESI-MS: (M+H)+=361

reactant | phosphorus pentoxide | 6.36 mmol, 910 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | triethylamine hydrochloride | 6.36 mmol, 876 mg | Cl.C(C)N(CC)CC
reactant | 4-chioroaniline | 6.36 mmol, 812 mg | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 4-[(2-methyl-pyridin-4-yl)-methyl]-1 (2H)-phthalazinone | 1.59 mmol, 400 g | CC1=NC=CC(=C1)CC1=NNC(C2=CC=CC=C12)=O | C15H13N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-(4-Chloroanilino) 4-[(2-methyl-4-pyridyl)methyl]phthalazine | ClC1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC2=CC(=NC=C2)C)C=C1 | C21H17ClN4
